US07820654B2
A mixture of compound (2,6-dichloro-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine (0.4 g, 1.23 mmol), morpholine (0.1 g, 1.16 mmol) and triethyl amine (0.5 ml, 3.66 mmol) in solvent ethanol (10 mL) was refluxed for 12 hours under nitrogen atmosphere. The reaction mixture was cooled to temperature in the range of 20-40° C. and concentrated under vacuum. The crude compound was passed through the silica gel by using 8-10% ethylacetate in pet-ether to afford the compound (6-chloro-2-morpholin-4-yl-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine (0.32 g, 69%) as white solid.

reactant | (2,6-dichloro-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine | 1.23 mmol, 0.4 g | ClC1=NC(=CC(=N1)NC1=CC=C(C=C1)OC(F)(F)F)Cl | C11H6Cl2F3N3O
reactant | morpholine | 1.16 mmol, 0.1 g | N1CCOCC1 | C4H9NO
reactant | triethyl amine | 3.66 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (6-chloro-2-morpholin-4-yl-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine | 0.32 g, 69% | ClC1=CC(=NC(=N1)N1CCOCC1)NC1=CC=C(C=C1)OC(F)(F)F | C15H14ClF3N4O2
